US09108969B2
Step G: Preparation of Ethyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of ethyl 2-(7-hydroxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (100 mg, 0.366 mmol) in DMF (3 mL) was added cesium carbonate (155 mg, 0.476 mmol), followed by 5-(chloromethyl)-2-isopropoxybenzonitrile (100 mg, 0.476 mmol). The reaction mixture was heated at 65° C. for 15 h and cooled down. The solid was filtered and washed with ethyl acetate. The combined solvent was evaporated, and the residue was purified by column chromatography to give the title compound (130 mg) as a colorless oil. LCMS m/z=447.7 [M+H]+; 1H NMR (400 ME-1z, CDCl3) δ ppm 1.32 (t, J=7.1 Hz, 3H), 1.42 (d, J=6.0 Hz, 6H), 2.25-2.32 (m, 1H), 2.42 (s, 3H), 2.58 (dd, J=16.0, 8.4 Hz, 1H), 2.82-2.92 (m, 2H), 3.73-3.80 (m, 1H), 3.95-4.02 (m, 1H), 4.08-4.15 (m, 1H), 4.20-4.27 (m, 2H), 4.62-4.69 (m, 1H), 4.96 (s, 2H), 6.13 (s, 1H), 6.83 (d, J=8.7 Hz, 1H), 6.97 (d, J=8.7 Hz, 1H), 7.01 (d, J=8.7 Hz, 1H), 7.59 (dd, J=8.6, 2.2 Hz, 1H), 7.63 (d, J=2.1 Hz, 1H).

reactant | ethyl 2-(7-hydroxy-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.366 mmol, 100 mg | OC1=C(C=2C=C3N(C2C=C1)CCC3CC(=O)OCC)C | C16H19NO3
reactant | cesium carbonate | 0.476 mmol, 155 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-(chloromethyl)-2-isopropoxybenzonitrile | 0.476 mmol, 100 mg | ClCC=1C=CC(=C(C#N)C1)OC(C)C | C11H12ClNO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-8-methyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 130 mg | C(#N)C=1C=C(COC2=C(C=3C=C4N(C3C=C2)CCC4CC(=O)OCC)C)C=CC1OC(C)C | C27H30N2O4
